US07585875B2
To a solution of 5.32 g (20 mmol) of 2-methyl-1-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one in 32 ml of anhydrous EtOH was added 3 g of hydroxylamine hydrochloride, followed by dropwise addition of a solution of 4.0 g NaOH in 12 ml water. The mixture was stirred and refluxed over night. After cooling, the solution was poured into a solution of 11 ml of 6N HCl and 200 ml ice water with stirring for 30 minutes. The mixture was extracted with ethyl acetate three times. The organic phase was washed with brine and dried over MgSO4. The solvent was removed under reduced pressure to obtain 4.6 g of crude compound, which was purified on an aluminum oxide column with hexane-dichloromethane-ethyl acetate as eluant to furnish 1.58 g (30.1%) of 2-methyl-1-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one oxime. Compound 1016.

reactant | 2-methyl-1-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one | 20 mmol, 5.32 g | CC(C(=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)C | C17H16N2O
reactant | hydroxylamine hydrochloride | 3 g | Cl.NO
reactant | NaOH | 4.0 g | [OH-].[Na+]
reactant | HCl | 6N, 11 ml | Cl | ClH
solvent | EtOH | 32 ml | CCO | C2H6O
solvent | water | 12 ml | O | H2O
product | 2-methyl-1-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one oxime | 1.58 g, 30.1% | CC(C(=NO)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)C | C17H17N3O
